### PR TITLE
feat: Matrix.testTotallyUnimodularFastest

### LINKED ISSUE #53: Prove that R10 is regular
Perhaps first move `matroidR10` to a separate file.

### PR DESCRIPTION
**Pull request by tristan-f-r**
We _begin_ proving a TU tester that takes advantage of well-defined determinants up to matrix permutation. Unfortunately, I can't find good lemmas for proving theorems about matrices regarding ordering. This allows us to check if `R10` is TU in a reasonable amount of time using kernel-level deciding (`native_decide` is, as always, much faster, but it adds a lot of trusted code). The check takes a few seconds on my local machine.

Closes #53.

### CODE REVIEW

File: Seymour/Matrix/TotalUnimodularityTest.lean [hunk 1]
```diff
@@ -48,13 +48,29 @@ theorem Matrix.testTotallyUnimodular_eq_isTotallyUnimodular {m n : ℕ} (A : Mat
...
+  rw [testTotallyUnimodularFastest]
+  intro a k f g hf hg
+  simp_all only [Fintype.card_coe, Function.range, Fin.getElem_fin, Set.mem_range,
+    decide_eq_true_eq]
+  have hfg : f.range.toFinset.card = g.range.toFinset.card := (by
+    simp_rw [Function.range, Set.toFinset_card, Set.card_range_of_injective hf, Set.card_range_of_injective hg])
+  have := a f.range.toFinset g.range.toFinset hfg
+  peel this with s hs
+  rw [hs]
+  sorry
```
Comment (tristan-f-r) [inline Seymour/Matrix/TotalUnimodularityTest.lean:76]: Most notably, this sorry, which only requires showing that the matrices are equivalent up to ordering (as the fast check forces a sorting)

File: Seymour/Matroid/Special/R10.lean [hunk 2]
```diff
@@ -0,0 +1,53 @@
...
+@[simp] theorem matroidR10_Y_eq : matroidR10.Y = { x | 5 ≤ x.val } := rfl
+@[simp] theorem matroidR10_B_eq : matroidR10.B = matroidR10_B_Z2_coe := rfl
+
+theorem matroidR10.IsRegular : matroidR10.toMatroid.IsRegular := by
+  rw [StandardRepr.toMatroid_isRegular_iff_hasTuSigning]
+  use matroidR10_B_ℚ_coe
+  simp_rw [Matrix.IsTuSigningOf]
+  refine ⟨?_, fun i j => ?_⟩
+  · rw [matroidR10_B_ℚ_coe_eq_coe_matroidR10_B_ℚ]
+    sorry
```
Comment (tristan-f-r) [inline Seymour/Matroid/Special/R10.lean:50]: This needs either a proof that a full-sized submatrix is equivalent to itself up to ordering, or a direct proof of the equivalence of these two matrices by extensionality. I suspect that the latter would be easy, but I haven't tried it yet.

File: Seymour/Matrix/TotalUnimodularityTest.lean [hunk 3]
```diff
@@ -48,13 +48,29 @@ theorem Matrix.testTotallyUnimodular_eq_isTotallyUnimodular {m n : ℕ} (A : Mat
...
+def Matrix.square_set_submatrix {m n : ℕ} (A : Matrix (Fin m) (Fin n) ℚ)
+      (r : Finset (Fin m)) (c : Finset (Fin n)) (h : #r = #c) :=
+  @Matrix.submatrix (Fin (#r)) _ _ (Fin (#r)) ℚ A ((r.sort (· ≤ ·))[·]) (fun p ↦ (c.sort (· ≤ ·))[p]'(by
+      rw [Finset.length_sort, show c.card = r.card by simp_all only [Fintype.card_coe]]
+      calc
+        p.val < #{ x // x ∈ r } := Fin.isLt p
+        _ = r.card := by simp_all only [Fintype.card_coe]
+      ))
 
 /-- Faster algorithm for testing total unimodularity but without formal guarantees. -/
```
Comment (madvorak) [inline Seymour/Matrix/TotalUnimodularityTest.lean:60]: Is there a reason to remove it prior to finishing the fastest version?

File: Seymour/Matroid/Special/R10.lean [hunk 4]
```diff
@@ -0,0 +1,53 @@
...
+  -- K. Truemper, 9.2.13
+  B := matroidR10_B_Z2_coe
+  decmemX := (·.val.decLt 5)
+  decmemY := Fin.decLe 5
+
+@[simp] theorem matroidR10_X_eq : matroidR10.X = { x | x.val < 5 } := rfl
+@[simp] theorem matroidR10_Y_eq : matroidR10.Y = { x | 5 ≤ x.val } := rfl
+@[simp] theorem matroidR10_B_eq : matroidR10.B = matroidR10_B_Z2_coe := rfl
+
+theorem matroidR10.IsRegular : matroidR10.toMatroid.IsRegular := by
```
Comment (madvorak) [inline Seymour/Matroid/Special/R10.lean:44]:
```suggestion
theorem matroidR10.isRegular : matroidR10.toMatroid.IsRegular := by
```

File: Seymour/Matroid/Special/R10.lean [hunk 5]
```diff
@@ -0,0 +1,53 @@
+import Seymour.Matroid.Notions.Graphicness
+import Seymour.Matrix.TotalUnimodularityTest
```
Comment (madvorak) [inline Seymour/Matroid/Special/R10.lean:2]: I recommend importing `R10.lean` in `EasyDirection.lean` and then removing
```
import Seymour.Matrix.TotalUnimodularityTest -- currently not used
```
in the sink file.

File: Seymour/Matrix/TotalUnimodularityTest.lean (hunk 3 above)
Comment (tristan-f-r) [reply Seymour/Matrix/TotalUnimodularityTest.lean:60]: I can keep it - I marked this PR as a draft in hopes that it would be finished by the time it would be merged, but I can re-add it if you merge it before then :+1:

File: Seymour/EasyDirection.lean [hunk 6]
```diff
@@ -2,22 +2,7 @@ import Seymour.Matroid.Operations.Sum1
...
-    rw [Set.disjoint_left]
-    intro _ hX hY
-    rw [Set.mem_def] at hX hY
-    omega
-  B := !![1, 0, 0, 1, 1; 1, 1, 0, 0, 1; 0, 1, 1, 0, 1; 0, 0, 1, 1, 1; 1, 1, 1, 1, 1].submatrix
-    (fun i => ⟨i.val, i.property⟩)
-    (fun j => ⟨j.val - 5, by omega⟩)
-  decmemX := (·.val.decLt 5)
-  decmemY := Fin.decLe 5
+import Seymour.Matroid.Special.R10
```
Comment (madvorak) [inline Seymour/EasyDirection.lean:5]: Yes, thanks! Also, we will need to prove that `Matroid.mapEquiv` preserves regularity (no need to do it in this PR, but maybe we can state it and check that the theorem below fits the hole in `Matroid.IsGood.isRegular` in this file.

File: Seymour/Matrix/TotalUnimodularityTest.lean (hunk 3 above)
Comment (madvorak) [reply Seymour/Matrix/TotalUnimodularityTest.lean:60]: All right, I will wait before merging!

File: Seymour/Matroid/Notions/Regularity.lean [hunk 7]
```diff
@@ -75,7 +75,14 @@ private def Matrix.auxZ2_unexpand : Lean.PrettyPrinter.Unexpander
   | `($_ $x) => `($(x).$(Lean.mkIdent `auxZ2))
   | _ => throw ()
 
-variable {α : Type} [DecidableEq α]
+variable {α β : Type}
```
Comment (madvorak) [inline Seymour/Matroid/Notions/Regularity.lean:78]: Please make `β` local to the single declaration.

File: Seymour/EasyDirection.lean [hunk 8]
```diff
@@ -22,7 +22,9 @@ theorem Matroid.IsGood.isRegular {M : Matroid α} (hM : M.IsGood) : M.IsRegular
   induction hM with
   | graphic hM => exact hM.isRegular
   | cographic hM => exact hM.isRegular
-  | isomorphicR10 hM => sorry
+  | @isomorphicR10 M e hM =>
```
Comment (madvorak) [inline Seymour/EasyDirection.lean:25]: If `@` is needed here, perhaps the definition should have explicit arguments.

File: Seymour/Matrix/TotalUnimodularityTest.lean [hunk 9]
```diff
@@ -48,6 +48,14 @@ theorem Matrix.testTotallyUnimodular_eq_isTotallyUnimodular {m n : ℕ} (A : Mat
 instance {m n : ℕ} (A : Matrix (Fin m) (Fin n) ℚ) : Decidable A.IsTotallyUnimodular :=
   decidable_of_iff _ A.testTotallyUnimodular_eq_isTotallyUnimodular
 
+def Matrix.square_set_submatrix {m n : ℕ} (A : Matrix (Fin m) (Fin n) ℚ)
```
Comment (madvorak) [inline Seymour/Matrix/TotalUnimodularityTest.lean:51]: If I remember correctly, @Ivan-Sergeyev was trying something similar earlier and it was too cumbersome to work with. However, I don't have any strong opinion on whether it should be used here.

File: Seymour/Matroid/Notions/Regularity.lean (hunk 7 above)
Comment (madvorak) [reply Seymour/Matroid/Notions/Regularity.lean:78]: Actually, I am doing a small refactor here, so I will push this change into your branch.

**Comment by madvorak** [comment]
Yay!
